US05530019
A mixture of ethyl 4-[3-[8-(4-isobutylphenyl)undecanoyl]1-indolyl]butyrate obtained in Ex. 15 (44 mg) and 1N solution of sodium hydroxide (0.5 ml) in ethanol (1 ml) and 1,4-dioxane (2 ml) was stirred at room temperature for 3 hours. The mixture was then acidified with diluted hydrochloric acid and extracted with ethyl acetate. The organic solution was washed with water and brine, and dried over magnesium sulfate. Evaporation of the solvent afforded 4-[3-[8-(4-isobutylphenyl)-undecanoyl]1-indolyl]butyric acid as an oil (41 mg).

reactant | ethyl 4-[3-[8-(4-isobutylphenyl)undecanoyl]1-indolyl]butyrate | C(C(C)C)C1=CC=C(C=C1)C(CCCCCCC(=O)C1=CN(C2=CC=CC=C12)CCCC(=O)OCC)CCC | C35H49NO3
reactant | sodium hydroxide | 0.5 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 4-[3-[8-(4-isobutylphenyl)-undecanoyl]1-indolyl]butyric acid | 41 mg | C(C(C)C)C1=CC=C(C=C1)C(CCCCCCC(=O)C1=CN(C2=CC=CC=C12)CCCC(=O)O)CCC | C33H45NO3
